US04091098
To a slurry of 2-chloro-1,2,4-benzotriazine-1-oxide (12.0 g., 0.066 mol.) in 100 ml. of isopropanol is added 11.4 g. (0.132 mol.) of anhydrous piperazine with cooling under N2. The exothermic reaction is moderated at 35°-40° C. for 15 min., and then stirred 2 hours at 20°-25° C. The orange precipitate is collected by suction and partitioned between chloroform and aqueous sodium carbonate. After drying, the CHCl3 extract is concentrated under vacuum to an oil which is taken up in a boiling mixture of 200 ml. of hexane and 200 ml. benzene. The solution is filtered and concentrated under vacuum, and the residue is dissolved in 150 ml. ethanol and treated with 10 ml. of 10N anhydrous ethanolic-HCl. The yellow crystalline crude hydrochloride (9.2 g.) is recrystallized from methanol and then from aqueous ethanol to give pure 3-(1-piperazinyl)-1,2,4-benzotriazine-1-oxide hydrochloride, m.p. 306°-307° C. (dec.).

reactant | 2-chloro-1,2,4-benzotriazine-1-oxide | 0.066 mol, 12.0 g | ClN1[NH+](C2=C(N=C1)C=CC=C2)[O-] | C7H6ClN3O
reactant | piperazine | 0.132 mol | N1CCNCC1 | C4H10N2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(1-piperazinyl)-1,2,4-benzotriazine-1-oxide hydrochloride | Cl.N1(CCNCC1)C=1N=[N+](C2=C(N1)C=CC=C2)[O-] | InChI=1S/C11H13N5O.ClH/c17-16-10-4-2-1-3-9(10)13-11(14-16)15-7-5-12-6-8-15;/h1-4,12H,5-8H2;1H
